US04168269
4,9-Dihydro-9-methyl-4-propionyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one
A reaction mixture comprising 7 g. of 4,9-dihydro-9-methyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one, 3.1 g. (2.9 ml.) of propionyl chloride and 70 ml. of benzene is refluxed for 3 hours and then allowed to stand for 48 hours. The benzene is distilled off. The residue is filtered, washed with ether and dried. The solid is heated to boiling in 300 ml. of ethyl acetate, filtered and the filtrate is chilled. The crystals are collected, washed with ether and dried giving the desired product, mp. 202°-203° C.

reactant | 4,9-dihydro-9-methyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | CN1C(C=2C(NC3=C1C=CC=C3)=CSC2)=O | C12H10N2OS
reactant | propionyl chloride | 2.9 ml | C(CC)(=O)Cl | C3H5ClO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4,9-Dihydro-9-methyl-4-propionyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | CN1C(C=2C(N(C3=C1C=CC=C3)C(CC)=O)=CSC2)=O | C15H14N2O2S
